US04745116
2,4-Dinitro-6-ethylphenol (10 g) was placed in a 250 ml round bottom flask, and phosphorous oxychloride (60 ml, Fisher) was added. N,N-diethylamiline (15 ml, Aldrich) was added portionwise, and the mixture became hot. The flask was placed under a condenser equiped with a drying tube heated on a steam bath for two hours and cooled. The mixture was then carefully poured onto ice, with stirring and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over MgSO4 and evaporated to a dark oil which was columned on silica gel using 10% ethyl acetate petroleum ether. The evaporated filtrates gave a reddish oil, which solidified upon being pumped dry. The solid was recrystallized from ethyl acetate-petroleum ether to give pale yellow needles of 1-chloro-2,4-dinitro-6-ethylbenzene.

reactant | 2,4-Dinitro-6-ethylphenol | 10 g | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])CC)O | C8H8N2O5
reactant | phosphorous oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-2,4-dinitro-6-ethylbenzene | ClC1=C(C=C(C=C1CC)[N+](=O)[O-])[N+](=O)[O-] | C8H7ClN2O4
